US05180735
In dichloromethane (20 ml) was dissolved 4-amino-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxycyclohexanol (629 mg). To the solution was added dropwise, under ice-cooling, chloroacetyl isocyanate (0.22 ml). The mixture was stirred for 10 minutes, to which was then added water to suspend the reaction. The reaction product was extracted with ethyl acetate. The extract solution was washed with a saturated aqueous solution of sodium chloride and, then, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by means of a silica gel column chromatography (carrier 30 g, developing solvent: ethyl acetate - hexane=3:2) to afford 4-(N'-chloroacetylureido)-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxycyclohexanol (514 mg: yield 64%) as a colorless powdery product.

reactant | 4-amino-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxycyclohexanol | 629 mg | NC1C(C(C(CC1)(O)CSCC1=C(C=CC=C1)CO)C1(C(CC=C(C)C)O1)C)OC | C24H37NO4S
reactant | chloroacetyl isocyanate | 0.22 ml | ClCC(=O)N=C=O | C3H2ClNO2
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(N'-chloroacetylureido)-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxycyclohexanol | 514 mg, yield 64% | ClCC(=O)NC(NC1C(C(C(CC1)(O)CSCC1=C(C=CC=C1)CO)C1(C(CC=C(C)C)O1)C)OC)=O | C27H39ClN2O6S
